US05716984
(1RS, 2SR, 3SR)-1-(3-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid
Ethyl (1RS)-1-(3-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate. To a solution of ethyl (1RS)-1-hydroxy-1-(3-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)-indene-2-carboxylate (150 mg, 0.35 mmol) in CH2Cl2 was added triethylsilane (67 μl, 0.42 mmol), followed by boron trifluoride etherate (213 μl, 1.73 mmol). The reaction mixture was allowed to stir for 30 min, at which time was added slowly 5% aqueous HCl. The mixture was extracted with EtOAc. The organic extract was washed successively with H2O, 5% aqueous NaHCO3, H2O and saturated aqueous NaCl and dried (MgSO4). The solvent was removed in vacuo, and the residue was purified by flash chromatography, eluting with 10% EtOAc/hexanes to provide the title compound (45 mg, 31%) as a mixture of Δ1 and Δ2 double bond isomers.

reactant | Ethyl (1RS)-1-(3-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate | COC=1C=C(C=CC1)C1C(=C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)OCC | C26H22O5
reactant | ethyl (1RS)-1-hydroxy-1-(3-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)-indene-2-carboxylate | 0.35 mmol, 150 mg | OC1(C(=C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)OCC)C2=CC(=CC=C2)OC | C26H22O6
reactant | triethylsilane | 0.42 mmol, 67 μl | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 1.73 mmol, 213 μl | B(F)(F)F.CCOCC
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(3-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid | 45 mg, 31% | COC=1C=C(C=CC1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)O | C24H20O5
